US05155100
A solution of t-butyl N-[2-(dimethylphosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionate (0.38 g, 0.78 mmol) in 30% HBr/glacial HOAc is stirred at room temperature for 6.5 hours. After concentration to about 1/10 volume, ether (40 mL) is added and the solid filtered. The solid is then suspended in water (3 mL), filtered off and washed with water to obtain N-[2-(phosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionic acid, m.p. 242°-244° dec.

reactant | t-butyl N-[2-(dimethylphosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionate | 0.78 mmol, 0.38 g | COP(=O)(OC)CNC(C(=O)NCCC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=CC=CC=C1 | C25H35N2O6P
solvent | HBr | Br | BrH
product | N-[2-(phosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionic acid | P(=O)(O)(O)CNC(C(=O)NCCC(=O)O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C19H23N2O6P
